US08372307B2
2-(4-propyl-cyclohexylmethyl)-butan-1-ol (13 g, 61.2 mmol) is dissolved in dichloromethane (50 ml) and triethylamine (3.5 ml) and a solution of methacryloyl chloride (2.2 ml, 21.8 mmol) in dichloromethane (30 ml) is added dropwise at 0° C. The reaction is stirred overnight, evaporated, filtered through silica with heptane/ethyl acetate (19:1) and the crude product is crystallised from ethanol to give acrylic acid 2-(4-propyl-cyclohexylmethyl)-butyl ester as a colourless oil.

reactant | 2-(4-propyl-cyclohexylmethyl)-butan-1-ol | 61.2 mmol, 13 g | C(CC)C1CCC(CC1)CC(CO)CC | C14H28O
reactant | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 21.8 mmol, 2.2 ml | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | acrylic acid 2-(4-propyl-cyclohexylmethyl)-butyl ester | C(CC)C1CCC(CC1)CC(COC(C=C)=O)CC | C17H30O2
